US05922737
Combine 2-tetrahydropyran-2-yloxyethyl 2,2,2-trifluoroethyl ether (2 mmol) and magnesium bromide (6 mmol) in diethyl ether (10 mL). After 24 hours, extract with water and then brine. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to give 2-hydroxyethyl 2,2,2-trifluorethyl ether.

reactant | 2-tetrahydropyran-2-yloxyethyl 2,2,2-trifluoroethyl ether | 2 mmol | FC(COCCOC1OCCCC1)(F)F | C9H15F3O3
reactant | magnesium bromide | 6 mmol | [Br-].[Mg+2].[Br-]
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 2-hydroxyethyl 2,2,2-trifluorethyl ether | FC(COCCO)(F)F | C4H7F3O2
